US09376422B2
Step 3: Synthesis of 5-bromo-3-[(2,2-difluoroethyl)(oxan-4-yl)amino]-N-[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-2-methylbenzamide
A stirred solution of 5-bromo-3-[(2,2-difluoroethyl)(oxan-4-yl)amino]-2-methylbenzoic acid (250 mg, 0.66 mmol) in dry DMF (3.0 ml) at 0° C. under nitrogen, was treated with HATU (327 mg, 0.86 mmol) and DIPEA (230 μl, 1.3 mmol) dropwise. The resulting solution was stirred for 5 minutes and then treated with 3-(aminomethyl)-4,6-dimethyl-1,2-dihydropyridin-2-one (89%, 136 mg, 0.79 mmol). The resulting suspension was stirred at 0° C. for 20 minutes and then stirred at room temperature overnight. After 18 hours, 3-(aminomethyl)-4,6-dimethyl-1,2-dihydropyridin-2-one (25 mg) was added and stirring continued for a further 25 hours. The reaction mixture was diluted with water (30 ml) and CH2Cl2 (30 ml). The layers were separated and the aqueous phase was extracted with CH2Cl2 (3×15 ml). The combined organic phases were washed with a saturated solution of NaHCO3 (aq) (45 ml), water (2×50 ml), brine (2×50 ml), dried (MgSO4), filtered and concentrated in-vacuo. The residue was purified by column chromatography (10 g SNAP cartridge, Isolera, 0-3% MeOH:CH2Cl2) and then triturated with ether. The resulting solid was collected by filtration and dried in-vacuo at 40° C. to give the title compound (259 mg, 77%) as an off white solid. LC-MS 100%, m/z=512.0, 513.0, 514.0, 515.0; 1H NMR (500 MHz, Acetone) δ 10.71 (s, 1H), 7.57-7.49 (m, 2H), 7.25 (d, J=1.9 Hz, 1H), 5.91 (s, 1H), 5.76 (tt, J=56.2, 4.3 Hz, 1H), 4.40 (d, J=5.5 Hz, 2H), 3.88 (dd, J=11.3, 4.2 Hz, 2H), 3.52 (td, J=14.6, 4.2 Hz, 2H), 3.33-3.23 (m, 2H), 3.02 (tt, J=11.6, 3.9 Hz, 1H), 2.32 (s, 3H), 2.28 (s, 3H), 2.24 (s, 3H), 1.73 (dd, J=12.4, 1.9 Hz, 2H), 1.59 (qd, J=12.2, 4.5 Hz, 2H).

reactant | 5-bromo-3-[(2,2-difluoroethyl)(oxan-4-yl)amino]-2-methylbenzoic acid | 0.66 mmol, 250 mg | BrC=1C=C(C(=C(C(=O)O)C1)C)N(C1CCOCC1)CC(F)F | C15H18BrF2NO3
reactant | HATU | 0.86 mmol, 327 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 1.3 mmol, 230 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-(aminomethyl)-4,6-dimethyl-1,2-dihydropyridin-2-one | 0.79 mmol, 136 mg | NCC=1C(NC(=CC1C)C)=O | C8H12N2O
reactant | 3-(aminomethyl)-4,6-dimethyl-1,2-dihydropyridin-2-one | 25 mg | NCC=1C(NC(=CC1C)C)=O | C8H12N2O
solvent | DMF | 3.0 ml | CN(C)C=O | C3H7NO
solvent | water | 30 ml | O | H2O
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | 5-bromo-3-[(2,2-difluoroethyl)(oxan-4-yl)amino]-N-[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-2-methylbenzamide | 259 mg, 77% | BrC=1C=C(C(=C(C(=O)NCC=2C(NC(=CC2C)C)=O)C1)C)N(C1CCOCC1)CC(F)F | C23H28BrF2N3O3
